US08877794B2
1.1 2-(2-Fluoro-5-methoxy-phenyl)-3-phenyl-acrylonitrile
To a solution of 5-methoxy-2-fluorobenzylcyanide (8 g, 48.4 mmol) in 200 ml ethanol was added sodium ethoxide 21% in ethanol (19.89 ml, 53.3 mmol) and benzaldehyde (4.92 ml, 48.4 mmol). The reaction mixture was stirred at room temperature over night and concentrated to ½ volume, filtered and washed with small amount of ether, and dried under high vacuum to obtain yellow crystals.

reactant | 5-methoxy-2-fluorobenzylcyanide | 48.4 mmol, 8 g | COC=1C=CC(=C(CC#N)C1)F | C9H8FNO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | benzaldehyde | 48.4 mmol, 4.92 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 53.3 mmol, 19.89 ml | C(C)O | C2H6O
product | 2-(2-Fluoro-5-methoxy-phenyl)-3-phenyl-acrylonitrile | FC1=C(C=C(C=C1)OC)C(C#N)=CC1=CC=CC=C1 | C16H12FNO
